* ALWAYS0_SYNC_NOA — ColdFlux RSFQ Standard Cell
* Source: IARPA SuperTools/ColdFlux Cell Library v3.0
* MIT-LL SFQ Process | JoSIM-compatible
* Ports: clk q
* Junctions: 2 total
*   B1: area=B1
*   B2: area=B2
*
* Bias: 2.6mV DC bias line (resistors calculated per ColdFlux methodology)
* Usage: .include circuits/standard/ALWAYS0_SYNC_NOA.cir
*        .model jjmit jj(rtype=1, vg=2.8m, cap=0.07p, r0=160, rn=16, icrit=0.1m)
*
.subckt THmitll_ALWAYS0_SYNC_NOA clk q
.param Phi0=2.067833848E-15
.param B0=1
.param Ic0=0.0001
.param IcRs=100u*6.859904418
.param B0Rs=IcRs/Ic0*B0
.param Rsheet=2
.param Lsheet=1.13e-12
.param LP=0.5p
.param IC=2.5
.param LB=2p
.param BiasCoef=0.7
.param B1=IC
.param B2=IC
.param IB1=B1*Ic0*BiasCoef
.param IB2=B2*Ic0*BiasCoef
.param LB1=LB
.param LB2=LB
.param L1=Phi0/(4*B1*Ic0)
.param L2=Phi0/(2*B1*Ic0)
.param L3=Phi0/(2*B2*Ic0)
.param L4=Phi0/(4*B2*Ic0)
.param R1=2
.param R2=2
.param LP1=LP
.param LP2=LP
.param RB1=B0Rs/B1
.param RB2=B0Rs/B2
.param LRB1=(RB1/Rsheet)*Lsheet+LP
.param LRB2=(RB2/Rsheet)*Lsheet+LP
B1 1 2 jjmit area=B1
B2 6 7 jjmit area=B2
IB1 0 3 pwl(0 0 5p IB1)
IB2 0 8 pwl(0 0 5p IB2)
LB1 3 1 7.025E-013
LB2 8 6 6.963E-013
LP1 2 0 3.835E-013
LP2 7 0 3.846E-013
L1 clk 1 2.08E-012
L2 1 4 4.162E-012
L3 5 6 4.149E-012
L4 6 q 2.083E-012
R1 4 0 R1
R2 5 0 R2
RB1 1 101 RB1
LRB1 101 0 LRB1
RB2 6 106 RB2
LRB2 106 0 LRB2
.ends
