* AND2 — ColdFlux RSFQ Standard Cell
* Source: IARPA SuperTools/ColdFlux Cell Library v3.0
* MIT-LL SFQ Process | JoSIM-compatible
* Ports: a b clk q
* Junctions: 15 total
*   B1: area=2.5, IC=250uA
*   B2: area=1.6, IC=160uA
*   B3: area=1.94, IC=194uA
*   B4: area=1.57, IC=157uA
*   B5: area=1.25, IC=125uA
*   B6: area=1.25, IC=125uA
*   B7: area=2.5, IC=250uA
*   B8: area=1.6, IC=160uA
*   B9: area=1.94, IC=194uA
*   B10: area=1.57, IC=157uA
*   B11: area=1.25, IC=125uA
*   B12: area=1.25, IC=125uA
*   B13: area=2.5, IC=250uA
*   B14: area=1.71, IC=171uA
*   B15: area=2.5, IC=250uA
*
* Bias: 2.6mV DC bias line (resistors calculated per ColdFlux methodology)
* Usage: .include circuits/standard/AND2.cir
*        .model jjmit jj(rtype=1, vg=2.8m, cap=0.07p, r0=160, rn=16, icrit=0.1m)
*
.subckt THmitll_AND2 a b clk q
.param Phi0=2.067833848E-15
.param B0=1
.param Ic0=0.0001
.param IcRs=100u*6.859904418
.param B0Rs=IcRs/Ic0*B0
.param Rsheet=2
.param Lsheet=1.13e-12
.param LP=0.5p
.param IC=2.5
.param LB=2p
.param BiasCoef=0.7
.param B1=2.5
.param B2=1.60
.param B3=1.94
.param B4=1.57
.param B5=1.25
.param B6=1.25
.param B7=2.5
.param B8=1.60
.param B9=1.94
.param B10=1.57
.param B11=1.25
.param B12=1.25
.param B13=2.5
.param B14=1.71
.param B15=2.5
.param IB1=175u
.param IB2=162u
.param IB3=175u
.param IB4=162u
.param IB5=175u
.param IB6=124u
.param IB7=175u
.param LB1=LB
.param LB2=LB
.param LB3=LB
.param LB4=LB
.param LB5=LB
.param LB6=LB
.param LB7=LB
.param L1=1.8843p
.param L2=4.2266p
.param L3=9.6820p
.param L4=0.9913p
.param L5=2.5745p
.param L6=1.8843p
.param L7=4.2266p
.param L8=9.6820p
.param L9=0.9913p
.param L10=2.5745p
.param L11=1.5293p
.param L12=2.6230p
.param L13=0.7965p
.param L14=0.7671p
.param L15=1.2144p
.param LP1=LP
.param LP3=LP
.param LP4=LP
.param LP7=LP
.param LP9=LP
.param LP10=LP
.param LP13=LP
.param LP14=LP
.param LP15=LP
.param RB1=B0Rs/B1
.param RB2=B0Rs/B2
.param RB3=B0Rs/B3
.param RB4=B0Rs/B4
.param RB5=B0Rs/B5
.param RB6=B0Rs/B6
.param RB7=B0Rs/B7
.param RB8=B0Rs/B8
.param RB9=B0Rs/B9
.param RB10=B0Rs/B10
.param RB11=B0Rs/B11
.param RB12=B0Rs/B12
.param RB13=B0Rs/B13
.param RB14=B0Rs/B14
.param RB15=B0Rs/B15
.param LRB1=(RB1/Rsheet)*Lsheet+LP
.param LRB2=(RB2/Rsheet)*Lsheet
.param LRB3=(RB3/Rsheet)*Lsheet+LP
.param LRB4=(RB4/Rsheet)*Lsheet+LP
.param LRB5=(RB5/Rsheet)*Lsheet
.param LRB6=(RB6/Rsheet)*Lsheet
.param LRB7=(RB7/Rsheet)*Lsheet+LP
.param LRB8=(RB8/Rsheet)*Lsheet
.param LRB9=(RB9/Rsheet)*Lsheet+LP
.param LRB10=(RB10/Rsheet)*Lsheet+LP
.param LRB11=(RB11/Rsheet)*Lsheet
.param LRB12=(RB12/Rsheet)*Lsheet
.param LRB13=(RB13/Rsheet)*Lsheet+LP
.param LRB14=(RB14/Rsheet)*Lsheet+LP
.param LRB15=(RB15/Rsheet)*Lsheet+LP
B1 1 2 jjmit area=B1
B2 4 5 jjmit area=B2
B3 5 6 jjmit area=B3
B4 8 9 jjmit area=B4
B5 8 10 jjmit area=B5
B6 12 13 jjmit area=B6
B7 14 15 jjmit area=B7
B8 17 18 jjmit area=B8
B9 18 19 jjmit area=B9
B10 21 22 jjmit area=B10
B11 21 23 jjmit area=B11
B12 24 13 jjmit area=B12
B13 25 26 jjmit area=B13
B14 28 29 jjmit area=B14
B15 31 32 jjmit area=B15
IB1 0 3 pwl(0 0 5p IB1)
IB2 0 7 pwl(0 0 5p IB2)
IB3 0 16 pwl(0 0 5p IB3)
IB4 0 20 pwl(0 0 5p IB4)
IB5 0 27 pwl(0 0 5p IB5)
IB6 0 30 pwl(0 0 5p IB6)
IB7 0 33 pwl(0 0 5p IB7)
LB1 3 1 1.032E-012
LB2 7 5 3.135E-012
LB3 16 14 1.016E-012
LB4 20 18 3.19E-012
LB5 27 25 1.708E-012
LB6 30 28 6.363E-013
LB7 33 31 7.55E-013
L1 a 1 1.874E-012
L2 1 4 4.249E-012
L3 5 8 9.672E-012
L4 10 11 9.976E-013
L5 8 12 2.561E-012
L6 b 14 1.875E-012
L7 14 17 4.233E-012
L8 18 21 9.691E-012
L9 11 23 9.928E-013
L10 21 24 2.556E-012
L11 clk 25 1.531E-012
L12 25 28 2.626E-012
L13 28 11 7.973E-013
L14 13 31 7.691E-013
L15 31 q 1.217E-012
LP1 2 0 3.464E-013
LP3 6 0 6.827E-013
LP4 0 9 4.723E-013
LP7 15 0 3.484E-013
LP9 19 0 6.81E-013
LP10 22 0 4.756E-013
LP13 26 0 3.392E-013
LP14 29 0 3.972E-013
LP15 32 0 3.699E-013
RB1 1 101 RB1
LRB1 101 0 LRB1
RB2 4 104 RB2
LRB2 104 5 LRB2
RB3 5 105 RB3
LRB3 105 0 LRB3
RB4 108 8 RB4
LRB4 0 108 LRB4
RB5 8 110 RB5
LRB5 110 10 LRB5
RB6 12 112 RB6
LRB6 112 13 LRB6
RB7 14 114 RB7
LRB7 114 0 LRB7
RB8 17 117 RB8
LRB8 117 18 LRB8
RB9 18 118 RB9
LRB9 118 0 LRB9
RB10 21 121 RB10
LRB10 121 0 LRB10
RB11 123 21 RB11
LRB11 23 123 LRB11
RB12 24 124 RB12
LRB12 124 13 LRB12
RB13 25 125 RB13
LRB13 125 0 LRB13
RB14 28 128 RB14
LRB14 128 0 LRB14
RB15 31 131 RB15
LRB15 131 0 LRB15
.ends
