* BUFF — ColdFlux RSFQ Standard Cell
* Source: IARPA SuperTools/ColdFlux Cell Library v3.0
* MIT-LL SFQ Process | JoSIM-compatible
* Ports: a q
* Junctions: 4 total
*   B1: area=B1
*   B2: area=B2
*   B3: area=B3
*   B4: area=B4
*
* Bias: 2.6mV DC bias line (resistors calculated per ColdFlux methodology)
* Usage: .include circuits/standard/BUFF.cir
*        .model jjmit jj(rtype=1, vg=2.8m, cap=0.07p, r0=160, rn=16, icrit=0.1m)
*
.subckt THmitll_BUFF a q
.param Phi0=2.067833848E-15
.param B0=1
.param Ic0=0.0001
.param IcRs=100u*6.859904418
.param B0Rs=IcRs/Ic0*B0
.param Rsheet=2
.param Lsheet=1.13e-12
.param LP=0.5p
.param IC=2.5
.param LB=2p
.param BiasCoef=0.7
.param B1=IC
.param B2=IC
.param B3=IC
.param B4=IC
.param IB1=B1*Ic0*BiasCoef
.param IB2=B2*Ic0*0.95
.param IB3=B3*Ic0*0.95
.param IB4=B4*Ic0*BiasCoef
.param LB1=LB
.param LB2=LB
.param LB3=LB
.param LB4=LB
.param L1=Phi0/(4*B1*Ic0)
.param L2=Phi0/(2*B1*Ic0)
.param L3=Phi0/(2*B2*Ic0)
.param L4=Phi0/(2*B3*Ic0)
.param L5=Phi0/(4*B4*Ic0)
.param LP1=LP
.param LP2=LP
.param LP3=LP
.param LP4=LP
.param RB1=B0Rs/B1
.param RB2=B0Rs/B2
.param RB3=B0Rs/B3
.param RB4=B0Rs/B4
.param LRB1=(RB1/Rsheet)*Lsheet+LP
.param LRB2=(RB2/Rsheet)*Lsheet+LP
.param LRB3=(RB3/Rsheet)*Lsheet+LP
.param LRB4=(RB4/Rsheet)*Lsheet+LP
B1 1 2 jjmit area=B1
B2 4 5 jjmit area=B2
B3 7 8 jjmit area=B3
B4 10 11 jjmit area=B4
IB1 0 3 pwl(0 0 5p IB1)
IB2 0 6 pwl(0 0 5p IB2)
IB3 0 9 pwl(0 0 5p IB3)
IB4 0 12 pwl(0 0 5p IB4)
LB1 3 1 LB1
LB2 6 4 LB2
LB3 9 7 LB3
LB4 12 10 LB4
L1 a 1 2.06E-012
L2 1 4 4.141E-012
L3 4 7 4.153E-012
L4 7 10 4.142E-012
L5 10 q 2.078E-012
LP1 2 0 4.709E-013
LP2 5 0 4.152E-013
LP3 8 0 4.425E-013
LP4 11 0 4.583E-013
RB1 1 101 RB1
LRB1 101 0 LRB1
RB2 4 104 RB2
LRB2 104 0 LRB2
RB3 7 107 RB3
LRB3 107 0 LRB3
RB4 10 110 RB4
LRB4 110 0 LRB4
.ends
