* DFFT — ColdFlux RSFQ Standard Cell
* Source: IARPA SuperTools/ColdFlux Cell Library v3.0
* MIT-LL SFQ Process | JoSIM-compatible
* Ports: a clk q
* Junctions: 9 total
*   B1: area=1.6, IC=160uA
*   B2: area=1.82, IC=182uA
*   B3: area=1.36, IC=136uA
*   B4: area=2.07, IC=207uA
*   B5: area=1.6, IC=160uA
*   B6: area=1.27, IC=127uA
*   B7: area=1.28, IC=128uA
*   B8: area=1.89, IC=189uA
*   B9: area=2.5, IC=250uA
*
* Bias: 2.6mV DC bias line (resistors calculated per ColdFlux methodology)
* Usage: .include circuits/standard/DFFT.cir
*        .model jjmit jj(rtype=1, vg=2.8m, cap=0.07p, r0=160, rn=16, icrit=0.1m)
*
.subckt THmitll_DFFT a clk q
.param Phi0=2.067833848E-15
.param B0=1
.param Ic0=0.0001
.param IcRs=100u*6.859904418
.param B0Rs=IcRs/Ic0*B0
.param Rsheet=2
.param Lsheet=1.13e-12
.param LP=0.5p
.param IC=2.5
.param ICreceive=1.6
.param ICtrans=2.5
.param LB=2p
.param BiasCoef=0.7
.param Lptl=2p
.param RD=1.36
.param B1=1.6
.param B2=1.82
.param B3=1.36
.param B4=2.07
.param B5=1.6
.param B6=1.27
.param B7=1.28
.param B8=1.89
.param B9=2.5
.param IB1=262u
.param IB2=206u
.param IB3=194u
.param IB4=175u
.param LB1=LB
.param LB2=LB
.param LB3=LB
.param LB4=LB
.param L1=Lptl
.param L2=2.8908p
.param L3=3.6865p
.param L4=4.7771p
.param L5=9.5023p
.param L6=Lptl
.param L7=2.2014p
.param L8=5.6199p
.param L9=5.3129p
.param L10=4.5588p
.param L11=Lptl
.param LP1=LP
.param LP2=LP
.param LP4=LP
.param LP5=LP
.param LP6=LP
.param LP8=LP
.param LP9=LP
.param RB1=B0Rs/B1
.param RB2=B0Rs/B2
.param RB3=B0Rs/B3
.param RB4=B0Rs/B4
.param RB5=B0Rs/B5
.param RB6=B0Rs/B6
.param RB7=B0Rs/B7
.param RB8=B0Rs/B8
.param RB9=B0Rs/B9
.param LRB1=(RB1/Rsheet)*Lsheet+LP
.param LRB2=(RB2/Rsheet)*Lsheet+LP
.param LRB3=(RB3/Rsheet)*Lsheet
.param LRB4=(RB4/Rsheet)*Lsheet+LP
.param LRB5=(RB5/Rsheet)*Lsheet+LP
.param LRB6=(RB6/Rsheet)*Lsheet+LP
.param LRB7=(RB7/Rsheet)*Lsheet
.param LRB8=(RB8/Rsheet)*Lsheet+LP
.param LRB9=(RB9/Rsheet)*Lsheet+LP
B1 1 2 jjmit area=B1
B2 5 6 jjmit area=B2
B3 7 8 jjmit area=B3
B4 8 9 jjmit area=B4
B5 12 13 jjmit area=B5
B6 16 17 jjmit area=B6
B7 18 11 jjmit area=B7
B8 11 19 jjmit area=B8
B9 20 21 jjmit area=B9
IB1 0 4 pwl(0 0 5p IB1)
IB2 0 10 pwl(0 0 5p IB2)
IB3 0 15 pwl(0 0 5p IB3)
IB4 0 22 pwl(0 0 5p IB4)
LB1 4 3 1.76E-012
LB2 10 8 1.06E-012
LB3 15 14 1.853E-012
LB4 22 20 6.105E-013
L1 a 1 1.401E-012
L2 1 3 2.877E-012
L3 3 5 3.673E-012
L4 5 7 4.739E-012
L5 8 11 9.527E-012
L6 clk 12 1.422E-012
L7 12 14 2.188E-012
L8 14 16 5.588E-012
L9 16 18 5.337E-012
L10 11 20 4.566E-012
L11 20 23 7.347E-013
RD 23 q RD
LP1 2 0 3.976E-013
LP2 6 0 4.101E-013
LP4 9 0 4.172E-013
LP5 13 0 3.949E-013
LP6 17 0 5.178E-013
LP8 19 0 4.435E-013
LP9 21 0 3.068E-013
RB1 1 101 RB1
LRB1 101 0 LRB1
RB2 5 105 RB2
LRB2 105 0 LRB2
RB3 7 107 RB3
LRB3 107 8 LRB3
RB4 8 108 RB4
LRB4 108 0 LRB4
RB5 12 112 RB5
LRB5 112 0 LRB5
RB6 16 116 RB6
LRB6 116 0 LRB6
RB7 18 118 RB7140LRB7 118 11 LRB7
RB8 11 111 RB8
LRB8 111 0 LRB8
RB9 20 120 RB9
LRB9 120 0 LRB9
.ends
